Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Compazine / codeine
 
Attending: ___.
 
Chief Complaint:
Right knee pain
 
Major Surgical or Invasive Procedure:
___: ORIF R Tibial Plateau (___)
 
History of Present Illness:
___ with PMH HTN, HLD, hypothyroidism, DJD of R hip/knee s/p R 
THR (___), s/p fall this morning onto knees after tripped on 
the rug.  Patient unable to ambulate due to pain in R knee and 
came to ED.  No pain in R hip, ankle.  No head strike, LOC, 
neck/back pain.

 
Past Medical History:
- HTN
- HLD
- Palpitations 
- Hypothyroidism 
- Osteopenia 
- GERD 
- Vitamin D deficiency 
- DJD (degenerative joint disease) of hip s/p R total hip 
arthroplasty ___ at ___

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Admission physical exam:

Vitals: 97.8 60 121/88 16 100%  

Right lower extremity:
Skin intact.  TTP over R knee with limited AROM/PROM ___ pain, 
no joint effusion.  No significant swelling.
Soft, non-tender thigh and leg
Full, painless AROM/PROM of hip, and ankle
___ fire
+SILT SPN/DPN/TN/saphenous/sural distributions
___ pulses, foot warm and well-perfused

Discharge physical exam:
Soft, non-tender thigh and leg
Full, painless AROM/PROM of hip, and ankle
___ fire
+SILT SPN/DPN/TN/saphenous/sural distributions
___ pulses, foot warm and well-perfused

 
Pertinent Results:
Acute impacted lateral tibial plateau fracture.  Horizontally 
oriented 
fracture through the inferior aspect of the patella.  Associated 

lipohemarthrosis. 

___ 11:55AM BLOOD WBC-14.4* RBC-4.70 Hgb-12.5 Hct-39.6 
MCV-84 MCH-26.5* MCHC-31.5 RDW-13.2 Plt ___
___ 07:10AM BLOOD WBC-10.7 RBC-3.80* Hgb-10.1* Hct-32.5* 
MCV-85 MCH-26.7* MCHC-31.2 RDW-13.1 Plt ___
___ 11:55AM BLOOD Glucose-101* UreaN-15 Creat-0.5 Na-135 
K-6.3* Cl-101 HCO3-25 AnGap-15
___ 07:10AM BLOOD Glucose-112* UreaN-12 Creat-0.5 Na-139 
K-4.2 Cl-104 HCO3-28 AnGap-___ with HTN, HLD s/p mechanical fall today with R tibial 
plateau fx.

Patient was admitted to the orthopedic surgery service from the 
ED.  The patient was taken to the operating room on ___ for 
ORIF of tibial plateau fracture.  The patient was taken from the 
OR to the PACU in stable condition and after recovery from 
anesthesia was transferred to the floor.  The patient was 
initially given IV fluids and IV pain medications, and 
progressed to a regular diet and oral medications by POD#1. The 
patient was given perioperative antibiotics and anticoagulation 
per routine.  

The patient worked with ___ who determined that discharge to home 
with ___ was appropriate. The ___ hospital course was 
otherwise unremarkable.
 
At the time of discharge the patient was afebrile with stable 
vital signs that were within normal limits, pain was well 
controlled with oral medications, incisions were 
clean/dry/intact, and the patient was voiding/moving bowels 
spontaneously. The patient is touch-down weight bearing the 
Right lower extremity, and will be discharged on Lovenox for DVT 
prophylaxis.  The patient will follow up in two weeks per 
routine. A thorough discussion was had with the patient 
regarding the diagnosis and expected post-discharge course, and 
all questions were answered prior to discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 75 mcg PO DAILY 
2. Pravastatin 80 mg PO DAILY 
3. Atenolol 25 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1. Atenolol 25 mg PO DAILY 
2. Levothyroxine Sodium 75 mcg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Pravastatin 80 mg PO DAILY 
5. Acetaminophen 1000 mg PO Q6H:PRN pain 
6. Docusate Sodium 100 mg PO BID 
7. Enoxaparin Sodium 40 mg SC Q24H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
RX *enoxaparin 40 mg/0.4 mL 1 syringe sc q24 Disp #*30 Syringe 
Refills:*0
8. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone [Oxecta] 5 mg ___ tablet, oral only(s) by mouth 
q4-6 Disp #*40 Tablet Refills:*0
9. Vitamin D ___ UNIT PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right tibial plateau fracture s/p ORIF
 
Discharge Condition:
Mental Status: Clear and coherent.

Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.
 
ANTICOAGULATION:
- Please take lovenox 40mg daily for 2 weeks
 
WOUND CARE:
- No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- No dressing is needed if wound continues to be non-draining.
-Splint must be left on until follow up appointment unless 
otherwise instructed
-Do NOT get splint wet
 
ACTIVITY AND WEIGHT BEARING:
TDWB
Physical Therapy:
TDWB
Treatments Frequency:
Change dressing daily
Staple removal on first postop visit
___
TDWB
 
Followup Instructions:
___